2159-07-06 06:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Extubate tomorrow when wife comes (around [**12-8**] pm) She does not want
   to see the extubation, but wants to be with him immediately after.
   - C-collar removed
   - DNR/DNI
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2159-7-3**] 06:15 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2159-7-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2159-7-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-7-6**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 83 (74 - 88) bpm
   BP: 124/82(93) {115/26(56) - 134/82(93)} mmHg
   RR: 22 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.5 kg (admission): 70.8 kg
   Height: 68 Inch
                  Total In:
                                                                  1,145 mL
                  PO:
                  TF:
                                                                  1,025 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    275 mL
   Urine:
                                                                  1,285 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -140 mL
                                                                   -275 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 506 (469 - 531) mL
   PS : 10 cmH2O
   RR (Set): 9
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 15 cmH2O
   Plateau: 10 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 5.9 L/min
   Physical Examination
   GENERAL
 unresponsive, not sedated, intubated, eyes closed and does
   not open them to voice or sternal rub
   HEENT
 pupils 3mm, reactive to 2mm, sclerae anicteric, slightly dry
   mucous membranes, ulcerations of the lower lip surrounding the ETT.
   NECK - supple, no apparent JVD but difficult to assess b/c patient on
   neck brace, no carotid bruits
   LUNGS
 coarse breath sounds throughout the lungs, on ventilator, no
   crackles/wheezes appreciated.
   HEART
 II/VI systolic ejection murmur, RRR, normal S1, S2.
   ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no rebound/guarding.
   EXTREMITIES - no c/c/e, Posturing of the left upper extremity.
   SKIN - No rashes or lesions. Slight skin breakdown behind neck where
   collar was rubbing.  Slight burn marks where defibrillator pads were on
   abdomen.
   NEURO
 Off sedation. pt with flexion to painful stimuli; not following
   commands.; Pt with 3
2mm pupils responsive equal bilaterally+ Upgoing
   babinski;
   PULSES: Right: Radial 2+ DP 2+ PT 2+, Left: Radial 2+ DP 2+ PT 2+
   Labs / Radiology
   534 K/uL
   11.8 g/dL
   137 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.3 mEq/L
   36 mg/dL
   103 mEq/L
   142 mEq/L
   36.0 %
   13.9 K/uL
        [image002.jpg]
                             [**2159-6-27**]  12:30 AM
                             [**2159-6-27**]  02:24 PM
                             [**2159-6-27**]  10:28 PM
                             [**2159-6-28**]  04:39 AM
                             [**2159-6-28**]  01:48 PM
                             [**2159-6-29**]  03:49 AM
                             [**2159-6-30**]  07:32 PM
                             [**2159-7-1**]  03:52 AM
                             [**2159-7-2**]  04:31 AM
                             [**2159-7-4**]  05:21 AM
   WBC
   8.7
   6.9
   9.2
   11.3
   9.6
   13.9
   Hct
   34.4
   32.8
   36.0
   38.4
   36.3
   36.0
   Plt
   255
   273
   321
   428
   448
   534
   Cr
   0.8
   0.7
   0.8
   1.0
   0.9
   0.9
   TCO2
   26
   24
   27
   27
   Glucose
   130
   125
   131
   139
   127
   137
   Other labs: PT / PTT / INR:12.4/24.4/1.0, CK / CKMB /
   Troponin-T:495/3/0.02, ALT / AST:91/91, Alk Phos / T Bili:68/0.9,
   Amylase / Lipase:/19, Differential-Neuts:90.2 %, Lymph:6.0 %, Mono:3.1
   %, Eos:0.6 %, Albumin:3.3 g/dL, LDH:506 IU/L, Ca++:9.5 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Mr. [**Known firstname **] [**Known lastname 7331**] is a 64 year old male with history of MVP and bicuspid
   aortic valve s/p cardiac arrest with subsequent elevation in cardiac
   enzymes and LFTs transferred for further work up. He remains minimally
   responsive and intubated, with no meaningful improvement in his
   neurological status since admission.
   .
#Neuro status: Patient has had minor improvements in his neurological status sin
ce admission, but is still not meaningfully responsive.  He has been off sedatio
n for more than one week and his CT shows signs of anoxic brain injury without h
emorrhage or shift.  Have ruled out other causes of encephalopathy including B12
, TSH, NH3.  Second video EEG without change, no seizure activity.
   - Extubate today.
   .
   # Comfort Measures: After family is prepared for extubation we will dc
   cervical collar and metoprolol and provide morphine gtt.
   - Scopalamine 0.5mg TID
   - Morphine IV PRN, Consider changing to gtt
   - Palliative care consult
   .
   #. Cardiac arrest
 Patient is s/p cardiac arrest due to ventricular
   arrhythmias.
   -          DC Telemetry.
   -          At this time further lab draws/lasix not indicated.
   .
   #. Pneumonia
 Finished a course of levofloxacin for pneumonia.  Low
   grade temperatures. Responds well to tylenol. Sputum Cultures showed
   oral flora. All blood cultures final with no growth
   - No intervention at this time given patient
s prognosis.
   .
   #. Rhythm - Dilated heart in echocardiogram in pt with preserved EF,
   bicuspid AS and mixomatous degeneration of mitral valve. Continues to
   have episodes of ectopy/NSVT, which have responded well to increased
   metoprolol.  Has otherwise maintained sinus rhythm.
   - DC metoprolol 100 mg TID
   - Telemetry
   .
   #.Skin Breakdown: Patient developing mouth ulcers secondary to the ETT;
   given orabase solution.  Patient with Stage II pressure ulcer around
   edge of cervical collar and unable to remove per neurology.
   - DC cervical collar.
   - Continue orabase solution
   - Frequent turning
   - Ensure appropriate low pressure bed
   .
   #.Respiratory Failure: Patient intubated on moderate settings.
   -Extubation today
   -
   #.Left to Right Shunt: Most likely secondary to anomalous pulmonary
   venous return. MRI recommended to further characterize but not possible
   with intubation.
   - No intervention at this time.
   .
   #.CAD
 Cath with minimal CAD. CE
s are down
   .
   #.Pump - No signs of heart failure at this time. Preserved EF.
   .
   #Cervical Spine: CT scan without evidence of fracture.
   - DC cervical collar today.
   ICU Care
   Nutrition: DC tube feeds
   Glycemic Control:  No Fingersticks
   Lines: 20 Gauge - [**2159-6-27**] 12:25 PM
   Prophylaxis:
   DVT: DC Heparin
   Stress ulcer:  Ranitidine
   VAP:  VAP bundle, elevated head of bed.
   Comments:
   Communication:  Comments: wife
s work number [**Telephone/Fax (1) 7400**]; from
   admission note: Wife is [**Name (NI) 288**] [**Name (NI) **] [**Known lastname 7367**] Home [**Telephone/Fax (1) 7335**] & Cell
   [**Telephone/Fax (1) 7336**]
   Code status: CMO
   Disposition: CCU for now, consider transfer to palliative care unit.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:  remains unresponsive; he is
   receiving comfort measures
   Above discussed extensively with family member, next of [**Doctor First Name **] or health
   care proxy.
   DNR status discussed. DNR.
   Total time spent on patient care: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2159-7-7**]
   11:38 ------

2159-07-07 06:37:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint: Severe neurologic injury s/p cardiac arrest
   24 Hour Events:
   Patient extubated yesterday, breathing well independently.  No events
   overnight.  Patient
s wife at bedside and stayed at bedside throughout
   the night.  Wife emotionally upset but coping, children having more
   difficulty with coping.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2159-7-6**] 12:00 PM
   Morphine Sulfate - [**2159-7-6**] 03:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-7-7**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.8
   HR: 101 (78 - 101) bpm
   BP: 132/68(81) {110/62(81) - 145/94(97)} mmHg
   RR: 28 (11 - 28) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.5 kg (admission): 70.8 kg
   Height: 68 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    960 mL
                                                                    300 mL
   Urine:
                                                                    960 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -960 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 513 (513 - 517) mL
   PS : 10 cmH2O
   RR (Set): 9
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 21%
   PIP: 15 cmH2O
   Plateau: 13 cmH2O
   SpO2: 93%
   ABG: ////
   Ve: 5.6 L/min
   Physical Examination
   GENERAL
 unresponsive, not sedated, eyes closed but opens to painful
   stimuli or light
   HEENT
 pupils 3mm, reactive to 2mm, sclerae anicteric, slightly dry
   mucous membranes, ulcerations on lips improved
   NECK - supple, mild JVD
   LUNGS
 coarse breath sounds throughout the lungs, improved from
   previous
   HEART
 III/VI systolic murmur, RRR, normal S1, S2.
   ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no rebound/guarding.
   EXTREMITIES - no c/c/e, Posturing of upper extremities
   SKIN - No rashes or lesions. Slight skin breakdown behind neck where
   collar was rubbing.  Slight burn marks where defibrillator pads were on
   abdomen.
   NEURO
 Off sedation. pt with flexion to painful stimuli; not following
   commands.; Pt with 3
2mm pupils responsive equal bilaterally+ Upgoing
   babinski;
   PULSES: Right: Radial 2+ DP 2+ PT 2+, Left: Radial 2+ DP 2+ PT 2+
   Labs / Radiology
   534 K/uL
   11.8 g/dL
   137 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.3 mEq/L
   36 mg/dL
   103 mEq/L
   142 mEq/L
   36.0 %
   13.9 K/uL
        [image002.jpg]
                             [**2159-6-27**]  12:30 AM
                             [**2159-6-27**]  02:24 PM
                             [**2159-6-27**]  10:28 PM
                             [**2159-6-28**]  04:39 AM
                             [**2159-6-28**]  01:48 PM
                             [**2159-6-29**]  03:49 AM
                             [**2159-6-30**]  07:32 PM
                             [**2159-7-1**]  03:52 AM
                             [**2159-7-2**]  04:31 AM
                             [**2159-7-4**]  05:21 AM
   WBC
   8.7
   6.9
   9.2
   11.3
   9.6
   13.9
   Hct
   34.4
   32.8
   36.0
   38.4
   36.3
   36.0
   Plt
   255
   273
   321
   428
   448
   534
   Cr
   0.8
   0.7
   0.8
   1.0
   0.9
   0.9
   TCO2
   26
   24
   27
   27
   Glucose
   130
   125
   131
   139
   127
   137
   Other labs: PT / PTT / INR:12.4/24.4/1.0, CK / CKMB /
   Troponin-T:495/3/0.02, ALT / AST:91/91, Alk Phos / T Bili:68/0.9,
   Amylase / Lipase:/19, Differential-Neuts:90.2 %, Lymph:6.0 %, Mono:3.1
   %, Eos:0.6 %, Albumin:3.3 g/dL, LDH:506 IU/L, Ca++:9.5 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Mr. [**Known firstname **] [**Known lastname 7331**] is a 54 year old male with history of MVP and bicuspid
   aortic valve s/p cardiac arrest with severe neurologic injury and with
   no meaningful improvement in his neurological status since admission.
   He is now extubated and breathing on his own.
   .
   #Neuro status: Patient has had minor improvements in his neurological
   status since admission, but is still not meaningfully responsive.  He
   has been off sedation for more than one week and his CT and EEG shows
   signs of anoxic brain injury without hemorrhage or shift.  Have ruled
   out other causes of encephalopathy including B12, TSH, NH3.
   - Patient extubated, still without improvement in neuro status
   .
   # Comfort Measures: Have stopped all medications except comfort meds.
   Now on morphine prn and scopolamine.  Also, written for lorazepam prn
   and tylenol prn.  Appears very comfortable with some difficulty
   managing secretions
   - Scopalamine 0.5mg TID
   - Morphine IV PRN, Consider changing to gtt
   - Palliative care saw patient, will evaluate again on Monday and help
   with placement
   .
   #. Cardiac arrest
 Patient is s/p cardiac arrest due to ventricular
   arrhythmias.  Still on telemetry.
   - Continue telemetry.
   - At this time further lab draws/lasix not indicated.
   .
   #. Pneumonia
 Finished a course of levofloxacin for pneumonia.  Low
   grade temperatures. Responds well to tylenol. Sputum Cultures showed
   oral flora. All blood cultures final with no growth
   - No intervention at this time given patient
s prognosis.
   .
   #. Rhythm - Dilated heart in echocardiogram in pt with preserved EF,
   bicuspid AS and mixomatous degeneration of mitral valve. Continues to
   have episodes of ectopy/NSVT, which have responded well to increased
   metoprolol.  Has otherwise maintained sinus rhythm.
   - Stopped metoprolol 100 mg TID
   - Telemetry
   .
   #.Skin Breakdown: Patient developing mouth ulcers secondary to the ETT;
   given orabase solution.  Patient with Stage II pressure ulcer around
   edge of cervical collar and unable to remove per neurology.
   - Removed cervical collar.
   - Continue orabase solution
   - Frequent turning
   - Ensure appropriate low pressure bed
   .
   #.Left to Right Shunt: Most likely secondary to anomalous pulmonary
   venous return. MRI recommended to further characterize but no longer
   indicated in this comfort measures only patient.
   - No intervention at this time.
   ICU Care
   Nutrition: Stopped tube feeds
   Glycemic Control:  No Fingersticks
   Lines: 20 Gauge - [**2159-6-27**] 12:25 PM
   Prophylaxis:
   DVT: Stopped Heparin
   Stress ulcer:  Stopped Ranitidine
   VAP:  Elevate head of bed
   Comments:
   Communication:  Comments: wife
s work number [**Telephone/Fax (1) 7400**]; from
   admission note: Wife is [**Name (NI) 288**] [**Name (NI) **] [**Known lastname 7367**] Home [**Telephone/Fax (1) 7335**] & Cell
   [**Telephone/Fax (1) 7336**]
   Code status: CMO
   Disposition: CCU for now, consider transfer to palliative care unit.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks: extubated; otherwise no change in
   status
   DNR status discussed. DNR.
   Total time spent on patient care: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2159-7-7**]
   11:39 ------

2159-07-08 06:56:00 Physician Resident Progress Note
TITLE:  CCU Progress Note
   Chief Complaint: Anoxic brain injury
   24 Hour Events: No events overnight.  Patient breathing independently,
   appears comfortable, not requiring meds.  Wife at bedside.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-7-8**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 116 (88 - 116) bpm
   BP: 143/94(98) {121/75(86) - 143/94(98)} mmHg
   RR: 30 (18 - 31) insp/min
   SpO2: 92% RA
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.5 kg (admission): 70.8 kg
   Height: 68 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                      0 mL
   Urine:
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,060 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ////
   Physical Examination
   GENERAL
 unresponsive, not sedated, eyes closed but opens to painful
   stimuli or light
   HEENT
 pupils 3mm, reactive to 2mm, sclerae anicteric, slightly dry
   mucous membranes, ulcerations on lips improved
   NECK - supple, mild JVD
   LUNGS
 coarse breath sounds throughout the lungs, improved from
   previous
   HEART
 III/VI systolic murmur, RRR, normal S1, S2.
   ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no rebound/guarding.
   EXTREMITIES - no c/c/e, Posturing of upper extremities
   SKIN - No rashes or lesions. Slight skin breakdown behind neck where
   collar was rubbing.  Slight burn marks where defibrillator pads were on
   abdomen.
   NEURO
 Off sedation. pt with flexion to painful stimuli; not following
   commands.; Pt with 3
2mm pupils responsive equal bilaterally+ Upgoing
   babinski;
   PULSES: Right: Radial 2+ DP 2+ PT 2+, Left: Radial 2+ DP 2+ PT 2+
   Labs/Studies
 no new labs
   Assessment and Plan
   Mr. [**Known firstname **] [**Known lastname 7331**] is a 54 year old male with history of MVP and bicuspid
   aortic valve s/p cardiac arrest with severe neurologic injury and with
   no meaningful improvement in his neurological status since admission.
   He is now extubated and breathing on his own.
   .
   #Neuro status: Patient has had minor improvements in his neurological
   status since admission, but is still not meaningfully responsive.  He
   has been off sedation for more than one week and his CT and EEG shows
   signs of anoxic brain injury without hemorrhage or shift.  Have ruled
   out other causes of encephalopathy including B12, TSH, NH3.
   - Patient extubated, still without improvement in neuro status
   .
   # Comfort Measures: Have stopped all medications except comfort meds.
   Now on morphine prn and scopolamine.  Also, written for lorazepam prn
   and tylenol prn.  Appears very comfortable with some difficulty
   managing secretions
   - Scopalamine 0.5mg TID
   - Morphine IV PRN
   - Palliative care saw patient, will evaluate again on Monday and help
   with placement
   .
   #. Cardiac arrest
 Patient is s/p cardiac arrest due to ventricular
   arrhythmias.  Still on telemetry.
   - Continue telemetry.
   - At this time further lab draws/lasix not indicated.
   .
   #. Pneumonia
 Finished a course of levofloxacin for pneumonia.  Low
   grade temperatures. Responds well to tylenol. Sputum Cultures showed
   oral flora. All blood cultures final with no growth
   - No intervention at this time given patient
s prognosis.
   .
   #. Rhythm - Dilated heart in echocardiogram in pt with preserved EF,
   bicuspid AS and mixomatous degeneration of mitral valve. Continues to
   have episodes of ectopy/NSVT, which have responded well to increased
   metoprolol.  Has otherwise maintained sinus rhythm.
   - Stopped metoprolol 100 mg TID
   - Telemetry
   .
   #.Skin Breakdown: Patient developing mouth ulcers secondary to the ETT;
   given orabase solution.  Patient with Stage II pressure ulcer around
   edge of cervical collar and unable to remove per neurology.
   - Removed cervical collar
   - Continue orabase solution
   - Frequent turning
   - Ensure appropriate low pressure bed
   .
   #.Left to Right Shunt: Most likely secondary to anomalous pulmonary
   venous return. MRI recommended to further characterize but no longer
   indicated in this comfort measures only patient.
   - No intervention at this time.
   ICU Care
   Nutrition: Stopped tube feeds
   Glycemic Control:  No Fingersticks
   Lines: 20 Gauge - [**2159-6-27**] 12:25 PM
   Prophylaxis:
   DVT: Stopped Heparin
   Stress ulcer:  Stopped Ranitidine
   VAP:  Elevate head of bed
   Comments:
   Communication:  Comments: wife
s work number [**Telephone/Fax (1) 7400**]; from
   admission note: Wife is [**Name (NI) 288**] [**Name (NI) **] [**Known lastname 7367**] Home [**Telephone/Fax (1) 7335**] & Cell
   [**Telephone/Fax (1) 7336**]
   Code status: CMO, DNR/DNI
   Disposition: CCU for now, consider transfer to palliative care unit.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks: CMO status confirmed; no change in
   clinical condition.  Dr [**Last Name (STitle) 1795**] will return to staff this patient tomorrow
   DNR status discussed. DNR.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2159-7-8**]
   09:55 ------

2159-07-09 06:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 103.0
F - [**2159-7-8**] 08:00 PM
   Patient became tachycardic through the course of the day likely due to
   dehydration. No need for fluids at this time as patient is CMO.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-7-9**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.9
C (102
   HR: 120 (111 - 130) bpm
   BP: 126/75(84) {126/74(84) - 126/75(88)} mmHg
   RR: 36 (26 - 44) insp/min
   SpO2: 83%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.5 kg (admission): 70.8 kg
   Height: 68 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    560 mL
                                                                    370 mL
   Urine:
                                                                    560 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -560 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 83%
   ABG: ////
   Physical Examination
   GENERAL
 unresponsive, not sedated, eyes closed but opens to painful
   stimuli or light
   HEENT
 pupils 3mm, reactive to 2mm, sclerae anicteric, slightly dry
   mucous membranes, ulcerations on lips improved
   NECK - supple, mild JVD
   LUNGS
 coarse breath sounds throughout the lungs, improved from
   previous
   HEART
 III/VI systolic murmur, RRR, normal S1, S2.
   ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no rebound/guarding.
   EXTREMITIES - no c/c/e, Posturing of upper extremities
   SKIN - No rashes or lesions. Slight skin breakdown behind neck where
   collar was rubbing.  Slight burn marks where defibrillator pads were on
   abdomen.
   NEURO
 Off sedation. pt with flexion to painful stimuli; not following
   commands.; Pt with 3
2mm pupils responsive equal bilaterally+ Upgoing
   babinski;
   PULSES: Right: Radial 2+ DP 2+ PT 2+, Left: Radial 2+ DP 2+ PT 2+
   Labs / Radiology
   534 K/uL
   11.8 g/dL
   137 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.3 mEq/L
   36 mg/dL
   103 mEq/L
   142 mEq/L
   36.0 %
   13.9 K/uL
        [image002.jpg]
                             [**2159-6-27**]  12:30 AM
                             [**2159-6-27**]  02:24 PM
                             [**2159-6-27**]  10:28 PM
                             [**2159-6-28**]  04:39 AM
                             [**2159-6-28**]  01:48 PM
                             [**2159-6-29**]  03:49 AM
                             [**2159-6-30**]  07:32 PM
                             [**2159-7-1**]  03:52 AM
                             [**2159-7-2**]  04:31 AM
                             [**2159-7-4**]  05:21 AM
   WBC
   8.7
   6.9
   9.2
   11.3
   9.6
   13.9
   Hct
   34.4
   32.8
   36.0
   38.4
   36.3
   36.0
   Plt
   255
   273
   321
   428
   448
   534
   Cr
   0.8
   0.7
   0.8
   1.0
   0.9
   0.9
   TCO2
   26
   24
   27
   27
   Glucose
   130
   125
   131
   139
   127
   137
   Other labs: PT / PTT / INR:12.4/24.4/1.0, CK / CKMB /
   Troponin-T:495/3/0.02, ALT / AST:91/91, Alk Phos / T Bili:68/0.9,
   Amylase / Lipase:/19, Differential-Neuts:90.2 %, Lymph:6.0 %, Mono:3.1
   %, Eos:0.6 %, Albumin:3.3 g/dL, LDH:506 IU/L, Ca++:9.5 mg/dL, Mg++:2.5
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Mr. [**Known firstname **] [**Known lastname 7331**] is a 54 year old male with history of MVP and bicuspid
   aortic valve s/p cardiac arrest with severe neurologic injury and with
   no meaningful improvement in his neurological status since admission.
   He is now extubated and breathing on his own.
   .
   #Neuro status: Patient has had minor improvements in his neurological
   status since admission, but is still not meaningfully responsive.  He
   has been off sedation for more than one week and his CT and EEG shows
   signs of anoxic brain injury without hemorrhage or shift.  Have ruled
   out other causes of encephalopathy including B12, TSH, NH3.
   - Patient extubated, still without improvement in neuro status
   .
   # Comfort Measures: Have stopped all medications except comfort meds.
   Now on morphine prn and scopolamine.  Also, written for lorazepam prn
   and tylenol prn.  Appears very comfortable with some difficulty
   managing secretions
   - Scopalamine 0.5mg TID
   - Morphine IV PRN
   - Palliative care saw patient, will evaluate again on Monday and help
   with placement
   .
   #. Cardiac arrest
 Patient is s/p cardiac arrest due to ventricular
   arrhythmias.  Still on telemetry.
   - Continue telemetry.
   - At this time further lab draws/lasix not indicated.
   .
   #. Pneumonia
 Finished a course of levofloxacin for pneumonia, but
   continues to have fevers. Responds well to Tylenol. Sputum Cultures
   showed oral flora. All blood cultures final with no growth
   - No intervention at this time given patient
s prognosis.
   .
   #. Rhythm - Dilated heart in echocardiogram in pt with preserved EF,
   bicuspid AS and mixomatous degeneration of mitral valve. Continues to
   have episodes of ectopy/NSVT, which have responded well to increased
   metoprolol.  Has otherwise maintained sinus rhythm.
   - Stopped metoprolol 100 mg TID
   - Telemetry
   .
   #.Skin Breakdown: Patient developing mouth ulcers secondary to the ETT;
   given orabase solution.  Patient with Stage II pressure ulcer around
   edge of cervical collar and unable to remove per neurology.
   - Removed cervical collar
   - Continue orabase solution
   - Frequent turning
   - Ensure appropriate low pressure bed
   .
   #.Left to Right Shunt: Most likely secondary to anomalous pulmonary
   venous return. MRI recommended to further characterize but no longer
   indicated in this comfort measures only patient.
   - No intervention at this time.
   ICU Care
   Nutrition: Stopped tube feeds
   Glycemic Control:  No Fingersticks
   Lines: 20 Gauge - [**2159-6-27**] 12:25 PM
   Prophylaxis:
   DVT: Stopped Heparin
   Stress ulcer:  Stopped Ranitidine
   VAP:  Elevate head of bed
   Comments:
   Communication:  Comments: wife
s work number [**Telephone/Fax (1) 7400**]; from
   admission note: Wife is [**Name (NI) 288**] [**Name (NI) **] [**Known lastname 7367**] Home [**Telephone/Fax (1) 7335**] & Cell
   [**Telephone/Fax (1) 7336**]
   Code status: CMO, DNR/DNI
   Disposition: CCU for now, consider transfer to palliative care unit.